US07608639B2
3-Fluoro-5-methoxy-phenol
A −78° C. solution of 1-fluoro-3,5-dimethoxybenzene (4.98 g, 31.9 mmol) in dry CH2Cl2 (50 mL) is treated with a 1 M CH2Cl2 solution of boron tribromide (128 mL, 128 mmol), and the mixture is warmed to 0° C. and stirred under N2. Upon completion, the mixture is poured into ice water and extracted with Et2O. The organic layer is dried (Na2SO4), and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using a gradient of 5/1 to 1/1 to hexanes/ethyl acetate to afford 2.40 g (53%) of the title compound. Rf=0.49 (1/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3). MS (ES−) m/z mass calculated for C7H7O2F 142, found 141 (M−1, 100%).

reactant | 1-fluoro-3,5-dimethoxybenzene | 31.9 mmol, 4.98 g | FC1=CC(=CC(=C1)OC)OC | C8H9FO2
reactant | boron tribromide | 128 mmol, 128 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 M | C(Cl)Cl | CH2Cl2
product | 3-Fluoro-5-methoxy-phenol | 2.40 g, 53% | FC=1C=C(C=C(C1)OC)O | C7H7FO2
